US06613743B2
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)[(4-isopropoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate.
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)[(4-hydroxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate (0.13 mmol, 75 mg) was combined with 2-bromopropane (0.26 mmol, 0.025 mL), potassium carbonate (0.65 mmol, 90 mg), tetrabutylammonium iodide (5 mg) and anhydrous DMF (1 mL). The reaction stirred under a nitrogen atmosphere at room temperature for 15 hours, then was heated to 50° C. for 3 hours. The reaction mixture was concentrated under vacuum to a residue and diluted with ethyl acetate (2 mL). The reaction was washed in distilled water and brine, and was dried over magnesium sulfate. The dried solution was then concentrated to an oil and purified by silica gel chromatography (2:1 hexanes/ethyl acetate) to yield 61 mg (76%) of a white solid. Rf=0.50 (2:1 hexanes/ethyl acetate); H1-NMR (CDCl3): δ7.69 (2H,d), 7.33-7.13 (6H,m), 6.96 (2H,d), 5.65 (1H,s), 5.02 (1H,m), 4.86 (1H,m), 4.80 (1H,m), 4.65 (1H,m), 3.99-3.80 (5H,m), 3.69 (2H,m), 3.11 (1H,br.s), 3.09-2.98 (3H,m), 2.91 (1H,m), 2.83 (1H,m), 1.89-1.72 (4H,m), 1.7-1.46 (4H,m), 1.38 (6H,d). MS (ESI): M+H=619.

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)[(4-hydroxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 0.13 mmol, 75 mg | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)O)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C28H36N2O9S
reactant | 2-bromopropane | 0.26 mmol, 0.025 mL | BrC(C)C | C3H7Br
reactant | potassium carbonate | 0.65 mmol, 90 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-(cyclopentyloxy)[(4-isopropoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 61 mg, 76% | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C31H42N2O9S
